### PR TITLE
Thm 11 6 new

### PR DESCRIPTION
**Pull request by abhijit-mudigonda**
We prove that finiteness of the double coset space D^* \ D_f^* / U implies finite-dimensionality of weight 2 level U automorphic forms. Here D is division ring over a number field, but in practice will be a totally definite quaternion algebra over a totally real field.

### CODE REVIEW

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 1]
```diff
@@ -1,31 +1,83 @@
...
 /-- The space of `K`-valued weight 2 level `U` quaternionic automorphic forms
 for `Dˣ` is finite-dimensional over `K`.
 -/
-theorem WeightTwoAutomorphicForm.finiteDimensional :
-    FiniteDimensional K (WeightTwoAutomorphicFormOfLevel U K) :=
-  sorry
+theorem WeightTwoAutomorphicForm.finiteDimensional
+    (hU : IsOpen (U : Set (Dfx F D))) :
+    FiniteDimensional K (WeightTwoAutomorphicFormOfLevel U K) := by
+    let H' : Subgroup (Dfx F D) := (incl₁ F D).range
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: You've started the proof so everything should be indented 2 not 4

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 2]
```diff
@@ -1,31 +1,83 @@
 import FLT.AutomorphicForm.QuaternionAlgebra.Defs
 import Mathlib.NumberTheory.NumberField.InfinitePlace.TotallyRealComplex
+import Mathlib.Data.Set.Finite.Basic
+import FLT.DivisionAlgebra.Finiteness
+import FLT.AutomorphicForm.QuaternionAlgebra.Defs
+import FLT.AutomorphicForm.QuaternionAlgebra.Defs
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: ?! So good you imported it twice?

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 3]
```diff
@@ -1,31 +1,83 @@
...
+theorem WeightTwoAutomorphicForm.finiteDimensional
+    (hU : IsOpen (U : Set (Dfx F D))) :
+    FiniteDimensional K (WeightTwoAutomorphicFormOfLevel U K) := by
+    let H' : Subgroup (Dfx F D) := (incl₁ F D).range
+    -- We define a free K-module W with a basis indexed by
+    -- the elements of a double coset space which (in the totally
+    -- definite case) is finite)
+    let X := DoubleCoset.Quotient (Set.range (incl₁ F D)) U
+    have h : Finite X :=
+        NumberField.FiniteAdeleRing.DivisionAlgebra.finiteDoubleCoset (K:=F) (D:=D) hU
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
        NumberField.FiniteAdeleRing.DivisionAlgebra.finiteDoubleCoset F D hU
```
These are explicit inputs, you don't need this `(K := F)` stuff

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 4]
```diff
@@ -1,31 +1,83 @@
...
+
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: Don't put blank lines in proofs. A blank line according to the style guide is "the stuff above is finished, now we're doing other stuff". If you really want a blank line just use a sufficiently indented `--`

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 5]
```diff
@@ -1,31 +1,83 @@
...
+    -- it's enough to check that φ is injective.
+    apply FiniteDimensional.of_injective φ
+    intro v₁ v₂ h
+    ext d
+    -- Show v₁ = v₂ because they agree on reps and the
+    -- space is determined by those values
+    let d' := rep (Quot.mk _ d)
+    -- Because d' is a representative for the double coset containing d
+    obtain ⟨γ, u, hu, hd⟩ : ∃ γ : Dˣ, ∃ u ∈ U, d = (incl₁ F D γ) * d' * u := by
+        have h_rel : (DoubleCoset.setoid H' U) d' d := by
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: Subproofs only get indented two spaces

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 6]
```diff
@@ -1,31 +1,83 @@
...
+            exact Quotient.exact (Quotient.out_eq ⟦d⟧)
+        -- Apply DoubleCoset.rel_iff to extract the witnesses
+        rw [DoubleCoset.rel_iff] at h_rel
+        obtain ⟨h, ⟨γ, hγ⟩, k, hk, h_eq⟩ := h_rel
+        use γ, k, hk
+        rw [← hγ] at h_eq
+        exact h_eq
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
        rwa [← hγ] at h_eq
```
If after `rw` the goal can be closed by `assumption`, then `rwa` works.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 7]
```diff
@@ -1,31 +1,83 @@
...
+    rw [hd, mul_assoc, v₁.left_invt γ (d' * u), v₂.left_invt γ (d' * u)]
+    rw [WeightTwoAutomorphicFormOfLevel.right_invt v₁ d' ⟨u, hu⟩,
+      WeightTwoAutomorphicFormOfLevel.right_invt v₂ d' ⟨u, hu⟩]
+    have : ∃ i, d' = rep (index.symm i) := by
+                use index (Quot.mk _ d)
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: New proofs get indented two spaces, not twelve. Are you using VS Code? Does it say `Spaces : 4` in the blue bar at the bottom on the right? This should be `Spaces : 2`

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 8]
```diff
@@ -1,31 +1,83 @@
...
+                simp only [Equiv.symm_apply_apply]
+                exact rfl
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
                rfl
```
But actually if you need `rfl` after `simp` then this usually indicates that there are missing API lemmas. Can you make `simp` close the goal by adding appropriate lemmas and making them simp?

**Comment by kbuzzard** [comment]
This PR is inactive so I'm taking it over as I'd like to see it merged.
